Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
shellfish derived / iodine
 
Attending: ___.
 
Chief Complaint:
Fall
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This is a ___ female who had an apparent syncopal
episode while in target earlier today.  She has no memory of 
this
episode, and regained awareness in the emergency department at
outside hospital.  Reportedly she had a fall from standing and
was found unresponsive.  When she regained consciousness she was
initially not oriented but has gradually improved.  Imaging
outside hospital revealed left-sided rib fractures and C6/C7
spinal fracture.  She was transferred here for further 
management
given the lack of available spine surgeon at outside hospital.
She has been unable to urinate since this event, and had a Foley
placed which drained approximately 1 L of clear yellow urine. 
She reports that she recently has been having problems with urge
incontinence, and is undergoing workup for normal pressure
hydrocephalus given fatigue, enlarged ventricles, periods of
confusion, unsteady gait, and urinary incontinence.  She also 
has
a history of atrial tachycardia which she says is generally
transient.  This is managed with digoxin-she is not currently on
any anticoagulation.  Her primary care physician has recently
been adjusting her digoxin dose.

ROS:
(+) per HPI.  Urinary incontinence.  Fatigue.  Periods of
forgetfulness.  Paresthesias of the second and third fingers of
the right hand periodically.  Paresthesias of the right hand 
well
blood pressure cuff was inflated at outside hospital.  Only
current complaint is upper back pain.
(-) Denies rashes, bleeding, easy bruising,
headache, dizziness, vertigo, nausea, vomiting, hematemesis,
bloating, cramping, melena, chest pain, shortness of breath,
cough

 
Past Medical History:
Atrial fibrillation, episodic, on digoxin
Hypothyroidism
Hypertension
Workup for possible normal pressure hydrocephalus ongoing

Past Surgical History:
None

 
Social History:
___
Family History:
Non contributory
 
Physical Exam:
Physical Exam on Arrival
Vitals: HR 60 BP 124/70 RR16 100% RA 
GEN: A&O, NAD
HEENT: No scleral icterus
CV: RRR, No M/G/R
PULM: Clear to auscultation b/l, No W/R/R
ABD: Soft, nondistended, nontender, no rebound or guarding. 
Foley to gravity draining clear yellow urine.
Ext: No ___ edema, ___ warm and well perfused

Physical Exam on Discharge
Vitals: T: 97.6, BP 111 / 77, HR 102, 16, 95% on RA
GEN: A&O, NAD
HEENT: No scleral icterus; ___ J collar in place
CV: Regular rate and rhythym
PULM: Clear to auscultation bilaterally, no respiratory distress
ABD: Soft, nondistended, nontender, no rebound or guarding.
Ext: No ___ edema, ___ warm and well perfused
 
Pertinent Results:
Imaging studies:
She had the following imaging completed at the outside hospital 
before transfer to ___ (___): CT head, CTA HEAD, CT 
C-SPINE, CT CHEST  

CHEST (PORTABLE AP) (___)
IMPRESSION: Multiple left posterior and lateral rib fractures, 
better assessed on the recent chest CT.  Hazy opacity within the 
left hemithorax reflects the known layering small left pleural 
effusion, with associated left basilar atelectasis and/or 
contusion.  No large pneumothorax seen on this supine exam. 

SECOND OPINION CT TORSO (___) 
IMPRESSION:  
1. Fractures of the left fourth and sixth through ninth 
posterior and lateral ribs with segmental and comminuted 
fractures of the left sixth through eighth ribs.  Small amount 
of adjacent extrapleural hematoma about the fracture sites. 
2. Small left pleural effusion and possible left upper and lower 
lobe 
atelectasis versus contusion.  No pneumothorax or pulmonary 
laceration. 

CT L-SPINE W/O CONTRAST (___)
IMPRESSION: 
1. No evidence of acute fracture or subluxation of the lumbar 
spine. 
2. Mild-to-moderate degenerative change of the lumbar spine with 
moderate 
central canal and mild-to-moderate bilateral neural foraminal 
narrowing at 
L3-4 and L4-5. 

MR CERVICAL SPINE W/O C (___)
1. C6-7 level bone marrow edema seen within the right pedicle 
and articular process at the site of fracture.  Subtle linear 
signal within the anterior longitudinal ligament and mild soft 
tissue prominence may suggest a tear within the ligament but 
without disruption. 
2. Moderate-to-severe spinal stenosis due to degenerative change 
seen at C4-5 level with deformity of the spinal cord with 
moderate spinal stenosis at C5-6 level. 
3. No abnormal signal within the spinal cord.  No evidence of 
intraspinal 
hematoma. 
4. Multilevel foraminal narrowing as described above. 

ECHO (___):
The left atrium is elongated. The left atrial volume index is 
mildly increased. Left ventricular wall thickness, cavity size, 
and global systolic function are normal (LVEF>55%). Due to 
suboptimal technical quality, a focal wall motion abnormality 
cannot be fully excluded. The estimated cardiac index is normal 
(>=2.5L/min/m2). There is no left ventricular outflow 
obstruction at rest or with Valsalva. Right ventricular chamber 
size and free wall motion are normal. The aortic valve leaflets 
are mildly thickened (?#). There is no aortic valve stenosis. 
Trace aortic regurgitation is seen. The mitral valve leaflets 
are mildly thickened. There is no mitral valve prolapse. 
Physiologic mitral regurgitation is seen (within normal limits). 
The pulmonary artery systolic pressure could not be determined. 
There is no pericardial effusion. IMPRESSION: Suboptimal image 
quality. Normal biventricular cavity sizes with preserved global 
biventricular systolic function.   

CAROTID SERIES COMPLETE (___):   
IMPRESSION: No hemodynamically significant carotid stenosis or 
atherosclerosis on either side. 

Laboratory studies:

___ 08:00PM BLOOD WBC-15.6* RBC-4.26 Hgb-13.6 Hct-40.9 
MCV-96 MCH-31.9 MCHC-33.3 RDW-12.9 RDWSD-45.0 Plt ___
___ 08:08AM BLOOD WBC-11.0* RBC-4.25 Hgb-13.5 Hct-41.4 
MCV-97 MCH-31.8 MCHC-32.6 RDW-13.0 RDWSD-46.6* Plt ___
___ 07:15AM BLOOD WBC-9.9 RBC-3.82* Hgb-12.1 Hct-37.4 
MCV-98 MCH-31.7 MCHC-32.4 RDW-13.1 RDWSD-47.0* Plt ___
___ 06:30AM BLOOD WBC-8.1 RBC-4.04 Hgb-12.8 Hct-40.4 
MCV-100* MCH-31.7 MCHC-31.7* RDW-13.2 RDWSD-48.2* Plt ___
___ 05:50AM BLOOD WBC-7.2 RBC-4.03 Hgb-12.7 Hct-39.5 MCV-98 
MCH-31.5 MCHC-32.2 RDW-13.0 RDWSD-46.4* Plt ___
___ 08:00PM BLOOD Neuts-90.6* Lymphs-5.5* Monos-3.2* 
Eos-0.0* Baso-0.2 Im ___ AbsNeut-14.12* AbsLymp-0.85* 
AbsMono-0.50 AbsEos-0.00* AbsBaso-0.03
___ 08:00PM BLOOD ___ PTT-24.5* ___
___ 05:50AM BLOOD Plt ___
___ 08:00PM BLOOD Glucose-119* UreaN-18 Creat-0.7 Na-139 
K-3.6 Cl-97 HCO3-28 AnGap-14
___ 08:08AM BLOOD Glucose-115* UreaN-15 Creat-0.7 Na-141 
K-3.9 Cl-97 HCO3-29 AnGap-15
___ 07:15AM BLOOD Glucose-88 UreaN-11 Creat-0.6 Na-142 
K-3.9 Cl-104 HCO3-28 AnGap-10
___ 06:30AM BLOOD Glucose-90 UreaN-13 Creat-0.7 Na-144 
K-4.4 Cl-105 HCO3-31 AnGap-8
___ 05:50AM BLOOD Glucose-97 UreaN-9 Creat-0.6 Na-141 K-4.3 
Cl-100 HCO3-30 AnGap-11
___ 05:38PM BLOOD CK(CPK)-1281*
___ 06:30AM BLOOD CK(CPK)-406*
___ 08:00PM BLOOD cTropnT-<0.01
___ 09:45AM BLOOD CK-MB-38* MB Indx-2.8 cTropnT-<0.01
___ 05:38PM BLOOD CK-MB-26* MB Indx-2.0 cTropnT-<0.01
___ 08:08AM BLOOD Calcium-8.7 Phos-3.1 Mg-2.0
___ 07:15AM BLOOD Calcium-8.4 Phos-2.5* Mg-1.8
___ 06:30AM BLOOD Calcium-8.7 Phos-2.7 Mg-2.0
___ 05:50AM BLOOD Calcium-8.8 Phos-3.4 Mg-2.0
___ 08:00PM BLOOD Digoxin-0.4*
 
Brief Hospital Course:
Ms. ___ is a ___ year old female with a history of afib not 
anticoagulated who was found down after a fall from standing 
with no relocation of the event. Per witness, she was initially 
confused but slowly regained orientation. Imagine revealed C6-7 
facet fracture and left 4, ___ rib fractures. Orthopedic spine 
was consulted. She was admitted to the surgical floor 
neurologically intact with hard cervical collar in place. 

Neuro: The patient was alert and oriented throughout 
hospitalization and pain was well controlled. Given the C6-C7 
fractures orthopedic surgery was consulted that indicated that 
the patient should wear a ___ J collar at all time for six 
weeks. They will continue to follow her as an outpatient.

CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored. A syncopal 
workup was performed during this hospital admission. For the 
syncopal workup cardiology was consulted. They recommended 
discontinued of digoxin indefinitely and continuation of her 
other home medications including aspirin. The patient underwent 
and echocardiogram to confirm structurally normal heart (please 
see result section of discharge summary) and an ultrasound of 
her carotids (please see result section of discharge summary). 
She also got a LINQ monitor  implantation for long-term ___ 
years) continuous cardiac rhythm monitoring. 

Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization. 

GI/GU/FEN: The patient was on a regular diet and she was 
tolerating it well. Patient's intake and output were closely 
monitored. Patient had a Foley catheter in place. On ___ 
she failed a trial of void upon discontinuing the Foley 
catheter. On bladder scan her post residual volume was  698mL. 
For this reason a Foley catheter was re-inserted and left in 
place for another day. She then voided.

ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none.

HEME: The patient's blood counts were closely watched for signs 
of bleeding, of which there were none.

Following her injuries a tertiary survey was completed during 
this hospital course and it was negative for any new injuries.

Prophylaxis: The patient received subcutaneous heparin and ___ 
dyne boots were used during this stay and was encouraged to get 
up and ambulate as early as possible.
At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Aspirin 81 mg PO DAILY 
2. Hydrochlorothiazide 25 mg PO DAILY 
3. Digoxin 0.125 mg PO DAILY 
4. Levothyroxine Sodium 75 mcg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO TID 
RX *acetaminophen 500 mg 1 tablet(s) by mouth every six (6) 
hours Disp #*20 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth every eight (8) 
hours Disp #*15 Tablet Refills:*0 
3.  OxyCODONE (Immediate Release) ___ mg PO Q3H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*15 Tablet Refills:*0 
4.  Senna 8.6 mg PO BID:PRN Constipation - First Line 
RX *sennosides [senna] 8.6 mg 1 tablet by mouth every eight (8) 
hours Disp #*15 Tablet Refills:*0 
5.  Tamsulosin 0.4 mg PO QHS 
RX *tamsulosin [Flomax] 0.4 mg 1 capsule(s) by mouth once a day 
Disp #*4 Capsule Refills:*0 
6.  Aspirin 81 mg PO DAILY  
7.  Hydrochlorothiazide 25 mg PO DAILY  
8.  Levothyroxine Sodium 75 mcg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
C6-C7 fractures
Left sided rib fractures
Syncope with possibility of being cardiac in etiology -no 
definite proof at this time but of high suspicion (According to 
cardiology)

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___,

You were admitted to the Acute Care Surgery Unit following a 
syncopal fall from standing height. You were found to have, 
C6-C7 fractures and left sided rib fractures. Cardiology was 
also consulted to figure out the reason for your syncopal 
episode. They believe your syncopal episode was cardiac in 
origin but not definite proof was found. You are recovering well 
and are now ready to be discharged to rehabilitation. 

* Your injury caused left sided rib fractures which can cause 
severe pain and subsequently cause you to take shallow breaths 
because of the pain.
 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
It has been a pleasure looking after you and we wish you all the 
best.
 
Followup Instructions:
___